US06555556B1
(b) Ethyl 2-[N-[4-(1-Acetimidoylpiperidin-4-yloxy)phenyl]-N-[3-(3-amidinophenyl)-2-(E)-propenyl]amino]propionate Trihydrochloride
To a solution of a mixture (544 mg) containing ethyl 2-[N-[3-(3-amidinophenyl)-2-(E)-propenyl]-N-[4-(piperidin-4-yloxy)phenyl]amino]propionate in methanol (30 ml) were added ethyl acetimidate hydrochloride (360 mg) and triethylamine (0.81 ml) at room temperature. The resulting mixture was stirred at room temperature for 12 hours. To the reaction mixture was added a 4M solution of hydrogen chloride in dioxane (1 ml) and the solution was concentrated in vacuo. The residue was purified by preparative HPLC (YMC-Pack ODS YMC) using 25% aqueous acetonitrile as an eluant to afford an amorphous solid. To a solution of the solid in methanol (10 ml) was added a 4M solution of hydrogen chloride in dioxane (0.5 ml) and the mixture was concentrated to dryness in vacuo. A solution of the residual solid in water (about 10 ml) was lyophilized to give the title compound (468 mg, yield of two steps 47%) as a pale brown amorphous solid.

reactant | ethyl 2-[N-[3-(3-amidinophenyl)-2-(E)-propenyl]-N-[4-(piperidin-4-yloxy)phenyl]amino]propionate | C(N)(=N)C=1C=C(C=CC1)/C=C/CN(C1=CC=C(C=C1)OC1CCNCC1)C(C(=O)OCC)C | C26H34N4O3
reactant | ethyl acetimidate hydrochloride | 360 mg | Cl.C(C)(OCC)=N
reactant | triethylamine | 0.81 ml | C(C)N(CC)CC | C6H15N
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | methanol | 10 ml | CO | CH4O
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
product | Ethyl 2-[N-[4-(1-Acetimidoylpiperidin-4-yloxy)phenyl]-N-[3-(3-amidinophenyl)-2-(E)-propenyl]amino]propionate Trihydrochloride | 468 mg, 47% | Cl.Cl.Cl.C(C)(=N)N1CCC(CC1)OC1=CC=C(C=C1)N(C\C=C\C1=CC(=CC=C1)C(N)=N)C(C(=O)OCC)C | InChI=1S/C28H37N5O3.3ClH/c1-4-35-28(34)20(2)33(16-6-8-22-7-5-9-23(19-22)27(30)31)24-10-12-25(13-11-24)36-26-14-17-32(18-15-26)21(3)29;;;/h5-13,19-20,26,29H,4,14-18H2,1-3H3,(H3,30,31);3*1H/b8-6+,29-21?;;;
